US05173489
9,9-Bis(4-pyridinylmethyl)-2-methylfluorene
The title compound was prepared following the procedure of Example 5 from 0.95 g of 2-methylfluorene, 2.17 g of 4-picolylchloride hydrochloride, 50 mg of cetyl(Bu)3PBr, 30 ml toluene, and 5 ml 50% NaOH by reaction at 50° for 6 hrs. The material was chromatographed to yield 0.2 g product. NMR (CDCl3,200 MHz) δ: 2.47(s,3H), 3.37(s,4H), 6.49(d,J=5.3Hz,4H), 7.03-7.45(arom.H), 8.09(d,4H). HRMS calculated for C26H22N2 : 362.1783 Found: 362.1778

reactant | 2-methylfluorene | 0.95 g | CC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H12
reactant | 4-picolylchloride hydrochloride | 2.17 g | Cl.N1=CC=C(C=C1)CCl
reactant | NaOH | 5 ml | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)-2-methylfluorene | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)C)CC1=CC=NC=C1 | C26H22N2
